US04975455
STAGE A: 6-METHOXY-3-ACETYL-2H-CHROMENE
1.52 g (10 mmol) of 2-hydroxy™5-methoxybenzaldehyde, 0.66 g of 3-oxo-1-butene and 1.4 g (10 mmol) of potassium carbonate are added at room temperature and with magnetic stirring to 40 ml of 2-butanone. The mixture is brought to reflux with stirring and this temperature is maintained for 2 hours. After being cooled, the reaction medium is poured into 100 ml of water and extracted 3 times with 100 ml of diethyl ether. The organic phases are combined, washed to neutrality with saturated aqueous sodium chloride solution and dried over sodium sulfate, and the organic phase is evaporated on a water bath under vacuum and the product recrystallized.

reactant | 5-methoxybenzaldehyde | COC=1C=CC=C(C=O)C1 | C8H8O2
reactant | 3-oxo-1-butene | 0.66 g | O=C(C=C)C | C4H6O
reactant | potassium carbonate | 10 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-butanone | 40 ml | CC(CC)=O | C4H8O
solvent | water | 100 ml | O | H2O
product | 6-METHOXY-3-ACETYL-2H-CHROMENE | COC=1C=C2C=C(COC2=CC1)C(C)=O | C12H12O3
